US06187914B1
5) Preparation of the Amidite of Deoxyadenosine
5′-O-p-Nitrobenzoyl-6-N-phenoxyacetyldeoxyadenosine (1 eq) is dried in a dichloromethane/acetonitrile mixture and reacted with 1.2 eq of bisdiisopropylaminocyanoethoxyphosphine and 0.5 eq of diisopropylammonium tetrazolide in anhydrous dichloromethane. After reacting for 2 hours, the reaction mixture is diluted and washed successively with 0.5 M sodium bicarbonate and saturated sodium chloride. The organic phase is evaporated to dryness. After precipitation in hexane, the product is dried under vacuum and stored under argon. This amidite is soluble in acetonitrile, a solvent in which oligonucleotide syntheses are conventionally carried out.

reactant | 5′-O-p-Nitrobenzoyl-6-N-phenoxyacetyldeoxyadenosine | 1 eq | [N+](=O)([O-])C1=CC=C(C(=O)OC[C@@H]2[C@H](C[C@@H](O2)N2C=NC=3C(NC(COC4=CC=CC=C4)=O)=NC=NC23)O)C=C1 | C25H22N6O8
reactant | dichloromethane acetonitrile | ClCCl.C(C)#N
reactant | bisdiisopropylaminocyanoethoxyphosphine | 1.2 eq | C(C)(C)N(C(C)C)P(OCCC#N)N(C(C)C)C(C)C | C15H32N3OP
reactant | diisopropylammonium tetrazolide | 0.5 eq | N1N=NN=[C-]1.C(C)(C)[NH2+]C(C)C
solvent | dichloromethane | ClCCl | CH2Cl2
product | Deoxyadenosine | [C@@H]1(C[C@H](O)[C@@H](CO)O1)N1C=NC=2C(N)=NC=NC12 | C10H13N5O3
